US07968538B2
5-Fluoro-N-(1-(3,5-dimethylphenyl)ethyl)-2-nitrobenzenamine
1-(3,5-Dimethylphenyl)ethanamine (670 mg, 4.2 mmol), 2,4-difluoronitrobenzene (764 mg, 4.2 mmol) and N,N-diisopropylethylamine (1.08 mg, 8.4 mmol) were stirred at room temperature in dry acetonitrile (50 mL) for 6 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated to collect the title compound (820 mg, 61% yield). 1H NMR (400 MHz, CDCl3): δ 8.49 (s, 1H), 8.19 (m, 1H), 6.45 (s, 2H), 6.30 (m, 3H), 4.48 (m, 1H), 3.76 (s, 6H), 1.62 (d, 3H).

reactant | 1-(3,5-Dimethylphenyl)ethanamine | 4.2 mmol, 670 mg | CC=1C=C(C=C(C1)C)C(C)N | C10H15N
reactant | 2,4-difluoronitrobenzene | 4.2 mmol, 764 mg | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | N,N-diisopropylethylamine | 8.4 mmol, 1.08 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 5-Fluoro-N-(1-(3,5-dimethylphenyl)ethyl)-2-nitrobenzenamine | 820 mg, 61% yield | FC=1C=CC(=C(C1)NC(C)C1=CC(=CC(=C1)C)C)[N+](=O)[O-] | C16H17FN2O2
